US07060827B2
In like manner to the preparation of N2,N4-bis(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine, 2,4-dichloro-5-fluoropyrimidine and 3-(methoxycarbonylmethylene)aniline were reacted to produce the desired N2,N4-bis(3-methoxycarbonylmethylenephenyl)-5-fluoro-2,4-pyrimidinediamine. 1H NMR (DMSO-d6): δ 10.23 (br s, 1H), 10.05 (br s, 1H), 8.26 (d, 1H, J=4.6 Hz), 7.64 (d, 1H, J=8.2 Hz), 7.51 (br s, 1H), 7.46 (d, 1H, J=8.2 Hz), 7.33 (br s, 1H), 7.29 (t, 1H, J=7.6 Hz), 7.20 (t, 1H, J=7.6 Hz), 7.06 (d, 1H, J=7.6 Hz), 6.93 (d, 1H, J=7.6 Hz), 3.63 (s, 2H), 3.58 (s, 3H), 3.57 (s, 3H), 3.56 (s, 2H); LCMS: ret. time: 21.74 min.; purity: 92%; MS (m/e): 425 (MH+).

reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 3-(methoxycarbonylmethylene)aniline | COC(=O)C=C1CC(N)=CC=C1 | C9H11NO2
product | N2,N4-bis(3-methoxycarbonylmethylenephenyl)-5-fluoro-2,4-pyrimidinediamine | COC(=O)C=C1CC(=CC=C1)NC1=NC=C(C(=N1)NC=1CC(C=CC1)=CC(=O)OC)F | C22H21FN4O4
